US04544659
5.0 g of 9-chloro-1-nitroacridine, 3.8 g of 2-hydrazino-2-thiazoline hydrobromide and 3.17 g of anhydrous sodium acetate are dissolved in 250 ml of dry methanol, heated on a steam-bath for 1 hour and then left to stand overnight. The precipitated material is filtered and recrystallized from methanol. There is obtained 1-nitro-9-acridanone (2-thiazolidinylidene)hydrazone which beings to decompose from 152°.

reactant | 9-chloro-1-nitroacridine | 5.0 g | ClC=1C2=CC=CC=C2N=C2C=CC=C(C12)[N+](=O)[O-] | C13H7ClN2O2
reactant | 2-hydrazino-2-thiazoline hydrobromide | 3.8 g | Br.N(N)C=1SCCN1
reactant | sodium acetate | 3.17 g | C(C)(=O)[O-].[Na+]
solvent | methanol | 250 ml | CO | CH4O
product | 1-nitro-9-acridanone (2-thiazolidinylidene)hydrazone | S1C(NCC1)=NN=C1C2=CC=CC=C2NC=2C=CC=C(C12)[N+](=O)[O-] | C16H13N5O2S
